US08053441B2
6-Bromo-2-(3-methyl-3,4-dihydro-2H-pyrazol-3-vi)-3H-quinazolin-4-one
Following the procedure described in the Example 7, using 6-bromo-2-isopropenyl-3H-quinazolin-4-one and TMSCHN2 as starting materials to yield the title compound as a white solid.

reactant | 6-bromo-2-isopropenyl-3H-quinazolin-4-one | BrC=1C=C2C(NC(=NC2=CC1)C(=C)C)=O | C11H9BrN2O
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
product | 6-Bromo-2-(3-methyl-3,4-dihydro-2H-pyrazol-3-vi)-3H-quinazolin-4-one | BrC=1C=C2C(NC(=NC2=CC1)C1(NN=CC1)C)=O | C12H11BrN4O
